US06559162B2
(iv) tert-Butyl Methyl[3-(2,2,2-trifluoroacetyl)-3-azabicyclo[3.2.1]oct-8-yl]carbamate
Trifluoroacetic anhydride (10.5 g, 50 mmol) was added dropwise to a cooled (0° C.) mixture of tert-butyl 3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate (Preparation D; 11.1 g, 46 mmol), TEA (5.6 g, 55 mmol) and toluene (120 mL). The mixture was stirred for 3 h, and then evaporated. The resulting residue was dissolved in DCM and the resulting solution was washed with 1 M HCl (cold). The organic layer was separated, dried and evaporated to yield 14.8 g (96%) of the sub-title compound.

reactant | Trifluoroacetic anhydride | 50 mmol, 10.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl 3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate | 46 mmol, 11.1 g | C12CNCC(CC1)C2N(C(OC(C)(C)C)=O)C | C13H24N2O2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl Methyl[3-(2,2,2-trifluoroacetyl)-3-azabicyclo[3.2.1]oct-8-yl]carbamate | 14.8 g, 96% | CN(C(OC(C)(C)C)=O)C1C2CN(CC1CC2)C(C(F)(F)F)=O | C15H23F3N2O3
